US04048191
A solution of 0.05 g (1.1 m mole) of sodium hydroxide in 2 ml of water and 2 ml of ethanol is combined with 0.19 g (0.56 m mole) of 4bromo-5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetnitrile, and the whole is stirred and refluxed for 4 hours. The resulting mixture is poured into 30 ml of cold 3N hydrochloric acid; the precipitate which forms is filtered off and washed well with water. Recrystallization of this precipitate from acetonitrile yields 4-bromo-5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetic acid as a pink solid; m.p. 190° C. (dec.)

reactant | sodium hydroxide | 0.05 g | [OH-].[Na+]
reactant | 4bromo-5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetnitrile | 0.19 g | BrC=1C=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC#N | C14H10BrClN2O
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | water | 2 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-bromo-5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetic acid | BrC=1C=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC(=O)O | C14H11BrClNO3
